US09193744B2
A flask with stir bar and nitrogen line was charged with (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (11, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.230 g, 0.515 mmol)], DMF (3 mL) and sodium hydride (60 wt % in oil, 12.0 mg, 0.30 mmol). The mixture was stirred at rt for about 20 min then cooled to about 0° C. Ethyl 2-bromoacetate (0.086 g, 0.515 mmol) was added then the mixture was allowed to warm to rt for about 12 h. Sodium hydride (60 wt % in oil, 20 mg, 0.500 mmol) was added then after about 15 min ethyl 2-bromoacetate (0.120 g, 0.719 mmol) was added dropwise over about 1 h. Sodium hydride (60 wt % in oil, 20 mg, 0.50 mmol) was added then after about 10 min ethyl 2-bromoacetate (0.120 g, 0.719 mmol) was added dropwise over about 10 min. The mixture was concentrated under reduced pressure, dissolved in 7 M ammonia in MeOH (5 mL, 35.0 mmol) transferred to a microwave vial and heated in a microwave at about 130° C. for about 1 h. The reaction mixture was purified without manipulation in one portion by preparative reverse phase HPLC using a Hypersil HS C18 column (250 mm×21.2 mm, 8 um particle size) with a gradient of 15-100% MeCN in 0.05 N aq. ammonium acetate pH 4.5 buffer. Product fractions were concentrated under reduced pressure then lyophilized to yield 2-(((3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-yl)oxy)acetamide (0.046 g, 18%); LC/MS, method 2, Rt=2.82 min, MS m/z 504 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.26 (d, J=0.7 Hz, 1H), 7.84 (s, 1H), 7.83-7.77 (m, 2H), 7.57 (s, 1H), 7.45-7.37 (m, 2H), 7.33 (s, 1H), 7.20 (s, 1H), 4.02 (d, J=14.7 Hz, 1H), 3.95 (d, J=14.8 Hz, 1H), 3.27-3.20 (m, 1H), 2.97-2.91 (m, 1H), 2.26-1.97 (m, 5H), 1.94-1.80 (m, 4H), 1.79-1.56 (m, 3H), 1.40-1.30 (m, 1H), 0.44 (t, J=7.3 Hz, 3H).

reactant | (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@](CC2)(O)C(F)(F)F | C25H26F4N2O
reactant | sodium hydride | 0.30 mmol, 12.0 mg | [H-].[Na+]
reactant | Ethyl 2-bromoacetate | 0.515 mmol, 0.086 g | BrCC(=O)OCC | C4H7BrO2
reactant | Sodium hydride | 0.500 mmol, 20 mg | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 0.719 mmol, 0.120 g | BrCC(=O)OCC | C4H7BrO2
reactant | Sodium hydride | 0.50 mmol, 20 mg | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 0.719 mmol, 0.120 g | BrCC(=O)OCC | C4H7BrO2
reactant | MeOH | 35.0 mmol, 5 mL | CO | CH4O
reactant | ammonia | 7 M | N | H3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(((3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-yl)oxy)acetamide | 0.046 g, 18% | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@@](CC2)(C(F)(F)F)OCC(=O)N | C27H29F4N3O2
